US08080566B1
A 50-mL round-bottom flask was placed a solution of methyl 9-ethyl-9H-carbazole-1-carboxylate (1.3 g, 5.14 mmol, 1.00 equiv) in THF (50 mL). To the mixture was added LiAlH4 (840 mg, 22.11 mmol, 4.00 equiv) in several batches at 0° C. and allowed to stir at this temperature 30 minutes. Then, the reaction was quenched with aqueous NaOH (2M, 12 mL). The mixture was then extracted with ethyl acetate (3×50 mL). Combined organic layers were dried over anhydrous sodium sulfate, filtered off and concentrated on a rotary evaporator. The residue was purified by a silica gel column chromatography eluted with dichloromethane/methanol (50:1) affording (9-ethyl-9H-carbazol-1-yl)methanol as white solid (1 g, (86%). Meanwhile, a 250-mL 3-necked round-bottom was charged with a solution of (COCl)2 (840 mg, 6.67 mmol, 1.50 equiv) in DCM (40 mL). To this was added DMSO (1 g, 12.80 mmol, 3.00 equiv)-78° C. and allowed to stir for 30 min at this temperature. To this solution was added a solution of (9-ethyl-9H-carbazol-1-yl)methanol (1 g, 4.44 mmol, 1.00 equiv) in DCM (5 mL) at −78° C. The resulting solution was stirred at −78° C. for 5 hours. Then, triethylamine (TEA) (10 mL) was added and allowed to stir an additional hour at −78° C. Upon completion, the reaction was quenched with water and extracted with DCM (3×50 mL). Combined organic layers were dried over anhydrous sodium sulfate, filtered off and concentrated on a rotary evaporator. The residue was purified by a silica gel column chromatography eluted with dichloromethane/methanol (50:1) affording 9-ethyl-9H-carbazole-1-carbaldehyde as light yellow solid (0.9 g, 90.8%).

reactant | methyl 9-ethyl-9H-carbazole-1-carboxylate | 5.14 mmol, 1.3 g, 1.00 equiv | C(C)N1C2=CC=CC=C2C=2C=CC=C(C12)C(=O)OC | C16H15NO2
reactant | LiAlH4 | 22.11 mmol, 840 mg, 4.00 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (9-ethyl-9H-carbazol-1-yl)methanol | C(C)N1C2=CC=CC=C2C=2C=CC=C(C12)CO | C15H15NO
